US04007176
A solution of sodium hydroxide (3.2 g.) in water (18 cc.) is added to a solution of ethyl (5,6-dihydro-1,4-oxathiin-3-yl )acetate (13.4 g.) in ethanol (134 cc.). The reaction mixture is heated for one hour at 60° C. and is then concentrated to dryness under reduced pressure (20 mm.Hg). The resulting residue is taken up in water (250 cc.), and the mixture extracted with diethyl ether (200 cc.), decanted and the ether phase is discarded. The aqueous phase is acidified to pH 1 by addition of 4N hydrochloric acid and is then extracted three times with diethyl ether (total 600 cc.). The ether fractions are combined, washed twice with water (total 200 cc.), dried over sodium sulphate and treated with decolourizing charcoal. After filtration and concentration to dryness under reduced pressure (20 mm.Hg), (5,6-dihydro-1,4-oxathiin-3-yl )acetic acid (8.9 g.) is obtained in the form of an oil which is used as it is.

reactant | sodium hydroxide | 3.2 g | [OH-].[Na+]
reactant | ethyl (5,6-dihydro-1,4-oxathiin-3-yl )acetate | 13.4 g | O1C=C(SCC1)CC(=O)OCC | C8H12O3S
solvent | water | 18 cc | O | H2O
solvent | ethanol | 134 cc | C(C)O | C2H6O
product | (5,6-dihydro-1,4-oxathiin-3-yl )acetic acid | 8.9 g | O1C=C(SCC1)CC(=O)O | C6H8O3S
